US06710062B1
Production of 2-Phenylthio-2-(3-phenyl-1,3-thiazolidine-2-yliden)acetonitrile (compound 2)
18.9 g (140 mmols) of phenylisothiocyanate and 20.9 g (140 mmols) of phenylthioacetonitrile dissolved in 50 ml of dimethylformamlde were added dropwise with stirring at room temperature to a suspension of 11.5 g of sodium hydride (60% oil, 287 mmols) in 200 ml of dimethylformamide. The mixture was stirred for 1 hour, and 28.9 g (154 mmols) of 1,2-dibromoethane was added dropwise at room temperature. Then the mixture was stirred for 3 hours. To the reaction mixture were added 300 ml of water and 100 ml of ether, followed by stirring. The precipitated crystals were collected by filtration, giving 26.1 g of the title compound as colorless crystals (yield 60%).

reactant | phenylisothiocyanate | 140 mmols, 18.9 g | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | phenylthioacetonitrile | 140 mmols, 20.9 g | C1(=CC=CC=C1)SCC#N | C8H7NS
reactant | sodium hydride | 287 mmols, 11.5 g | [H-].[Na+]
reactant | 1,2-dibromoethane | 154 mmols, 28.9 g | BrCCBr | C2H4Br2
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | water | 300 ml | O | H2O
product | 2-Phenylthio-2-(3-phenyl-1,3-thiazolidine-2-yliden)acetonitrile | 26.1 g, yield 60% | C1(=CC=CC=C1)SC(C#N)=C1SCCN1C1=CC=CC=C1 | C17H14N2S2
